### PR TITLE
[Merged by Bors] - feat(RingTheory/Finiteness/Basic): add lemmas for restricting scalars

### PR DESCRIPTION
**Pull request by martinwintermath**
Add three lemmas that transfer `Submodule.FG` across restricting scalars from a semiring `A` to a semiring `R` under the assumption `Module.Finite R A` .

* `FG.restrictScalars` proves that `restrictScalars` preserves `FG`
* `FG.restrictScalars_iff` as the iff version of the above
* `FG.span` proves that the `A`-span of an `FG` `R`-submodule is `FG`.

The PR also contains the following changes to related lemmas:
* renaming `fg_restrictScalars` to `FG.restrictScalars_of_surjective` emphasizing the hypothesis `Function.Surjective (algebraMap R A)`
* adding a `sections RestrictScalars` that also contains the above lemma
* restructuring variables in the above section
* changing some submodule / ring hypotheses to implicit

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 1]
```diff
@@ -140,17 +140,20 @@ theorem fg_induction (R M : Type*) [Semiring R] [AddCommMonoid M] [Module R M]
...
 
-theorem fg_restrictScalars {R S M : Type*} [CommSemiring R] [Semiring S] [Algebra R S]
-    [AddCommMonoid M] [Module S M] [Module R M] [IsScalarTower R S M] (N : Submodule S M)
-    (hfin : N.FG) (h : Function.Surjective (algebraMap R S)) :
-    (Submodule.restrictScalars R N).FG := by
+section RestrictScalars
+
+variable {R A M : Type*} [Semiring A] [AddCommMonoid M] [Module A M]
+
+theorem fg_restrictScalars_of_surjective [CommSemiring R] [Algebra R A]
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean]: It looks like you are renaming `Submodule.fg_restrictScalars` here and defining a new `Submodule.fg_restrictScalars` at around line 414. To avoid confusion I suggest renaming your other new theorem to `Submodule.FG.restrictScalars` and adding a deprecation notice for this theorem:

```
@[deprecated (since := "2026-01-24")] alias fg_restrictScalars := fg_restrictScalars_of_surjective
```

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 2]
```diff
@@ -140,17 +140,20 @@ theorem fg_induction (R M : Type*) [Semiring R] [AddCommMonoid M] [Module R M]
...
       exact h₂ _ _ (h₁ _) ih
 
-theorem fg_restrictScalars {R S M : Type*} [CommSemiring R] [Semiring S] [Algebra R S]
-    [AddCommMonoid M] [Module S M] [Module R M] [IsScalarTower R S M] (N : Submodule S M)
-    (hfin : N.FG) (h : Function.Surjective (algebraMap R S)) :
-    (Submodule.restrictScalars R N).FG := by
+section RestrictScalars
+
+variable {R A M : Type*} [Semiring A] [AddCommMonoid M] [Module A M]
+
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean:147]: May as well refactor by having `variable {S : Submodule A M}` and changing `N` to `S` in `fg_restrictScalars_of_surjective`.

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 3]
```diff
@@ -400,6 +405,30 @@ instance finite_finset_sup {ι : Type*} (s : Finset ι) (S : ι → Submodule R
   intro S₁ hS₁ S₂ hS₂
   exact Submodule.finite_sup S₁ S₂
 
+section RestrictScalars
+
+variable (R : Type*) [Semiring R]
+variable {M : Type*} [AddCommMonoid M] [Module R M]
+variable {A : Type*} [Semiring A] [Module R A] [Module A M] [IsScalarTower R A M]
+
+theorem fg_restrictScalars [Module.Finite R A] {S : Submodule A M} (hS : S.FG) :
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean]: See https://github.com/leanprover-community/mathlib4/pull/33980/changes#r2723788975

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 4]
```diff
@@ -400,6 +405,30 @@ instance finite_finset_sup {ι : Type*} (s : Finset ι) (S : ι → Submodule R
   intro S₁ hS₁ S₂ hS₂
   exact Submodule.finite_sup S₁ S₂
 
+section RestrictScalars
+
+variable (R : Type*) [Semiring R]
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean]: Perhaps `R` could be made implicit?

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 5]
```diff
@@ -400,6 +405,30 @@ instance finite_finset_sup {ι : Type*} (s : Finset ι) (S : ι → Submodule R
...
+@[simp]
+theorem fg_restrictScalars_iff [Module.Finite R A] {S : Submodule A M} :
+    (S.restrictScalars R).FG ↔ S.FG :=
+  ⟨FG.of_restrictScalars R S, fg_restrictScalars R⟩
+
+/-- If a ring `R` is finite over a subring `S` then the `R`-span of an FG `S`-submodule is FG. -/
+theorem span_submodule_fg_of_fg {S : Submodule R M} (hfg : S.FG) :
+    (span A S : Submodule A M).FG := by
+  obtain ⟨t, ht⟩ := hfg
+  use t; rw [← ht, Submodule.span_span_of_tower]
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean]:
```suggestion
theorem span_submodule_fg_of_fg {S : Submodule R M} (hS : S.FG) :
    (span A S : Submodule A M).FG := by
  obtain ⟨t, ht⟩ := hS
  use t
  rw [← ht, span_span_of_tower]
```

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 6]
```diff
@@ -400,6 +405,30 @@ instance finite_finset_sup {ι : Type*} (s : Finset ι) (S : ι → Submodule R
   intro S₁ hS₁ S₂ hS₂
   exact Submodule.finite_sup S₁ S₂
 
+section RestrictScalars
+
+variable (R : Type*) [Semiring R]
+variable {M : Type*} [AddCommMonoid M] [Module R M]
+variable {A : Type*} [Semiring A] [Module R A] [Module A M] [IsScalarTower R A M]
+
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean:416]: Consider having `variable {S : Submodule R M}`

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 7]
```diff
@@ -140,17 +140,20 @@ theorem fg_induction (R M : Type*) [Semiring R] [AddCommMonoid M] [Module R M]
...
+variable {R A M : Type*} [Semiring A] [AddCommMonoid M] [Module A M]
+
+theorem fg_restrictScalars_of_surjective [CommSemiring R] [Algebra R A]
+    [Module R M] [IsScalarTower R A M] (N : Submodule A M)
+    (hfin : N.FG) (h : Function.Surjective (algebraMap R A)) :
+    (restrictScalars R N).FG := by
   obtain ⟨X, rfl⟩ := hfin
   use X
-  exact (Submodule.restrictScalars_span R S h (X : Set M)).symm
+  exact (restrictScalars_span R A h (X : Set M)).symm
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean]:
```suggestion
  exact ⟨X, (restrictScalars_span R A h _).symm⟩
```

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 8]
```diff
@@ -140,17 +140,20 @@ theorem fg_induction (R M : Type*) [Semiring R] [AddCommMonoid M] [Module R M]
...
-theorem fg_restrictScalars {R S M : Type*} [CommSemiring R] [Semiring S] [Algebra R S]
-    [AddCommMonoid M] [Module S M] [Module R M] [IsScalarTower R S M] (N : Submodule S M)
-    (hfin : N.FG) (h : Function.Surjective (algebraMap R S)) :
-    (Submodule.restrictScalars R N).FG := by
+section RestrictScalars
+
+variable {R A M : Type*} [Semiring A] [AddCommMonoid M] [Module A M]
+
+theorem fg_restrictScalars_of_surjective [CommSemiring R] [Algebra R A]
+    [Module R M] [IsScalarTower R A M] (N : Submodule A M)
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Basic.lean]: Looks like `N` could be implicit

File: Mathlib/RingTheory/Finiteness/Ideal.lean [hunk 9]
```diff
@@ -44,7 +44,8 @@ theorem fg_ker_comp {R S A : Type*} [CommRing R] [CommRing S] [CommRing A] (f :
   letI : IsScalarTower R S A := IsScalarTower.of_algebraMap_eq fun _ => rfl
   let f₁ := Algebra.linearMap R S
   let g₁ := (IsScalarTower.toAlgHom R S A).toLinearMap
-  exact Submodule.fg_ker_comp f₁ g₁ hf (Submodule.fg_restrictScalars (RingHom.ker g) hg hsur) hsur
+  exact Submodule.fg_ker_comp f₁ g₁ hf
+    (Submodule.fg_restrictScalars_of_surjective (RingHom.ker g) hg hsur) hsur
```
Comment (LLaurance) [inline Mathlib/RingTheory/Finiteness/Ideal.lean]: See https://github.com/leanprover-community/mathlib4/pull/33980/changes#r2723805963

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 10]
```diff
@@ -400,6 +407,29 @@ instance finite_finset_sup {ι : Type*} (s : Finset ι) (S : ι → Submodule R
...
+theorem FG.restrictScalars [Module.Finite R A] (hS : S.FG) : (S.restrictScalars R).FG := by
+  rw [← Module.Finite.iff_fg] at *
+  exact Module.Finite.trans A S
+
+@[simp]
+theorem FG.restrictScalars_iff [Module.Finite R A] : (S.restrictScalars R).FG ↔ S.FG :=
+  ⟨of_restrictScalars R, restrictScalars⟩
+
+/-- If a ring `R` is finite over a subring `S` then the `R`-span of an FG `S`-submodule is FG. -/
+theorem FG.span_submodule (hS : S.FG) : (span A S : Submodule A M).FG := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Basic.lean]:
```suggestion
theorem FG.span (hS : S.FG) : (span A (S : Set M)).FG := by
```
I think `span` is enough for a name? If you want to disambiguate then this should be called `submoduleSpan` (as the declaration you are referring is called `Submodule.span`)

**Review by erdOne — COMMENTED** [review]
Otherwise LGTM
Thanks!
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
